US07609930B2
The oligopoly-1,4-butylene terephthalate is obtained in the following process: an esterification reaction between 1,4-butanediol(tetramethylene glycol) and terephthalic acid or an ester exchange reaction between 1,4-butanediol and dimethyl terephthalate provides bishydroxybutylterephthalate (BHT) or an oligomer thereof, which then undergoes condensation polymerization. Such a PBT resin preferably has a melting point of 195° C. or lower, more preferably 180° C. or lower.

reactant | terephthalic acid | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | 1,4-butanediol | C(CCCO)O | C4H10O2
reactant | dimethyl terephthalate | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
product | bishydroxybutylterephthalate | OCCCCOC(C1=CC=C(C(=O)OCCCCO)C=C1)=O | C16H22O6
